US08198453B2
Step 2. (4-nitrophenyl) (S)-2-(N-(tert-butoxycarbonyl)amino)-3-((R)-tetrahydro-2H-pyran-3-yl)propylcarbamate
To a solution of tert-butyl (S)-1-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate (20.8 mg, 0.081 mmol) in anhydrous DCM (9 mL) was added 4-nitrophenyl chloroformate (17.1 mg, 0.085 mmol), followed by TEA (12.2 mg, 17 μL, 0.12 mmol). The resulting solution was stirred at rt for 5 min (monitored by LC-MS) and diluted to 12 mL. An aliquot of the carbamate mixture solution (2 mL) was used for the next step without purification.

reactant | tert-butyl (S)-1-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | 0.081 mmol, 20.8 mg | NC[C@H](C[C@@H]1COCCC1)NC(OC(C)(C)C)=O | C13H26N2O3
reactant | 4-nitrophenyl chloroformate | 0.085 mmol, 17.1 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
product | (4-nitrophenyl) (S)-2-(N-(tert-butoxycarbonyl)amino)-3-((R)-tetrahydro-2H-pyran-3-yl)propylcarbamate | C(C)(C)(C)OC(=O)N[C@H](CNC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)C[C@@H]1COCCC1 | C20H29N3O7
